US09029395B2
To a solution of lithium 4-((2S,4R)-1-acetyl-4-((isopropoxycarbonyl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)benzoate (for a preparation see Intermediate 20) (246 mg, 0.591 mmol) and 2-bromo-N,N-dimethylethanamine (135 mg, 0.886 mmol) in DMF (5 mL) was added potassium carbonate (122 mg, 0.886 mmol). The resulting mixture was stirred at room temperature for 2 h, the reaction mixture was concentrated under reduced pressure. The residue was dissolved in a 1:1 MeOH/DMSO mixture and purified by MDAP (formate). The appropriate fractions were combined and concentrated in vacuo to give 2-(dimethylamino)ethyl 4-((2S,4R)-1-acetyl-4-((isopropoxycarbonyl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)benzoate (14.5 mg, 5%) as a viscous colourless oil. LCMS (Formate, 2 min), Rt=0.72 min, MH+=482.

reactant | lithium 4-((2S,4R)-1-acetyl-4-((isopropoxycarbonyl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)benzoate | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C(=O)[O-])C=C1)NC(=O)OC(C)C)C.[Li+]
reactant | 2-bromo-N,N-dimethylethanamine | 0.886 mmol, 135 mg | BrCCN(C)C | C4H10BrN
reactant | potassium carbonate | 0.886 mmol, 122 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(dimethylamino)ethyl 4-((2S,4R)-1-acetyl-4-((isopropoxycarbonyl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)benzoate | 14.5 mg, 5% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C(=O)OCCN(C)C)C=C1)NC(=O)OC(C)C)C | C27H35N3O5
